US08802864B2
c) (3S)-3-{[4-(4-bromo-2-fluorophenyl)-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl]methyl}-N,N-dimethyl-1-pyrrolidinecarboxamide
Into a 4 mL screwcap vial was placed 4-(4-bromo-2-fluorophenyl)-5-[(3S)-3-pyrrolidinylmethyl]-2,4-dihydro-3H-1,2,4-triazol-3-one hydrochloride (0.265 mmol), polystyrene-DIEA (216 mg, 3.68 mmol/g loading, 0.794 mmol) and 2 mL dichloromethane. The contents were lightly swirled. In a separate vial, N,N-dimethylaminocarbamoyl chloride (0.265 mmol) was taken up in 1 mL dichloromethane and added to the starting material dropwise via pipette. The vial was capped and the solution was lightly agitated at room temperature overnight. The reaction had only progressed by 50% via LCMS analysis. Another equivalent of N,N-dimethylaminocarbamoyl chloride (0.265 mmol) was added to the reaction. After 8 h at room temperature, another equivalent of N,N-dimethylaminocarbamoyl chloride (0.265 mmol) was added, as well as N,N-diisopropylethylamine (0.100 mL). After 1 h, the reaction mixture became clear. The solution was filtered to remove the polystyrene-DIEA and then concentrated in vacuo. Reverse phase HPLC (10-40% acetonitrile w/0.1% TFA/water w/0.1% TFA) was utilized in purifying the title compound (60 mg, 55%). MS(ES)+ m/e 412.3, 414.1 [M+H]+.

reactant | 4-(4-bromo-2-fluorophenyl)-5-[(3S)-3-pyrrolidinylmethyl]-2,4-dihydro-3H-1,2,4-triazol-3-one hydrochloride | 0.265 mmol | Cl.BrC1=CC(=C(C=C1)N1C(NN=C1C[C@H]1CNCC1)=O)F
reactant | N,N-dimethylaminocarbamoyl chloride | 0.265 mmol | CNN(C(=O)Cl)NC | C3H8ClN3O
reactant | N,N-dimethylaminocarbamoyl chloride | 0.265 mmol | CNN(C(=O)Cl)NC | C3H8ClN3O
reactant | N,N-dimethylaminocarbamoyl chloride | 0.265 mmol | CNN(C(=O)Cl)NC | C3H8ClN3O
reactant | N,N-diisopropylethylamine | 0.100 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (3S)-3-{[4-(4-bromo-2-fluorophenyl)-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl]methyl}-N,N-dimethyl-1-pyrrolidinecarboxamide | BrC1=CC(=C(C=C1)N1C(=NNC1=O)C[C@H]1CN(CC1)C(=O)N(C)C)F | C16H19BrFN5O2
